US04954625
In 2 ml of acetic acid is dissolved 0.3 g of N-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester, and 1 ml of hydrogen bromide-acetic acid solution is added to the solution, followed by standing at room temperature for 30 minutes. 50 ml of ethyl ether is added to the reaction solution, followed by shaking, and the supernatant layer is removed by decantation. The precipitate is collected and dried under reduced pressure to give 0.3 g of N-[N-[(S)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide as a colorless powder.

reactant | N-[N-[(S)-5-(4-piperidyl)-1-ethoxycarbonylpentyl]-L-alanyl]-N-(indan-2-yl)glycine tert-butyl ester | 0.3 g | C(C)(C)(C)OC(CN(C1CC2=CC=CC=C2C1)C([C@@H](N[C@@H](CCCCC1CCNCC1)C(=O)OCC)C)=O)=O | C31H49N3O5
reactant | hydrogen bromide acetic acid | 1 ml | Br.C(C)(=O)O
reactant | ethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | N-[N-[(S)-1-ethoxycarbonyl-5-(4-piperidyl)pentyl]-L-alanyl]-N-(indan-2-yl)glycine.dihydrobromide | 0.3 g | Br.Br.C(C)OC(=O)[C@H](CCCCC1CCNCC1)N[C@@H](C)C(=O)N(CC(=O)O)C1CC2=CC=CC=C2C1 | InChI=1S/C27H41N3O5.2BrH/c1-3-35-27(34)24(11-7-4-8-20-12-14-28-15-13-20)29-19(2)26(33)30(18-25(31)32)23-16-21-9-5-6-10-22(21)17-23;;/h5-6,9-10,19-20,23-24,28-29H,3-4,7-8,11-18H2,1-2H3,(H,31,32);2*1H/t19-,24-;;/m0../s1
